US08754068B2
Preparation of 3-(4-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(benzyloxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)propanoic acid
A mixture of (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (100 mg, 0.148 mmol), 3-(4-boronophenyl)propanoic acid (43.0 mg, 0.222 mmol), Pd(Ph3P)4 (17.07 mg, 0.015 mmol) and sodium carbonate (78 mg, 0.739 mmol) in DME (1 mL) and Water (1 mL) was heated to 100° C. for 1.5 hours. LCMS indicated desired product was formed. The reaction mixture was cooled to the room temperature and neutralized to pH=4-5 using 1N HCl. The reaction mixture was extracted with ethyl acetate. The extracts were dried over Na2SO4, filtered through a celite pad and concentrated under reduced pressure. The residue was purified by 80-100% ethyl acetate/hexanes to give the desired product, 3-(4-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(benzyloxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)propanoic acid, as colorless oil (60 mg, 55%). LCMS: m/e 675.63 (M−H)−, 4.78 min (method 5). 1H NMR (500 MHz, CHLOROFORM-d) d ppm 0.82 (s, 3H), 0.89 (s, 3H), 0.90 (s, 3H), 0.95 (s, 3H), 0.97 (s, 3H), 0.99-1.73 (m, 17H), 1.69 (s, 3H), 1.80-1.97 (m, 2H), 2.04-2.11 (m, 1H), 2.19-2.37 (m, 2H), 2.62-2.73 (m, 2H), 2.93 (t, J=7.78 Hz, 2H), 3.04 (td, J=10.91, 4.73 Hz, 1H), 4.60 (s, 1H), 4.73 (d, J=2.14 Hz, 1H), 5.05-5.20 (m, 2H), 5.21-5.29 (m, 1H), 6.92-7.00 (m, 2H), 7.06 (d, J=7.63 Hz, 1H), 7.17 (t, J=7.48 Hz, 1H), 7.28-7.41 (m, 5H).

reactant | (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 0.148 mmol, 100 mg | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)OS(=O)(=O)C(F)(F)F)C)[C@@H](CC3)C(=C)C)C(=O)OCC3=CC=CC=C3 | C38H51F3O5S
reactant | 3-(4-boronophenyl)propanoic acid | 0.222 mmol, 43.0 mg | B(O)(O)C1=CC=C(C=C1)CCC(=O)O | C9H11BO4
reactant | sodium carbonate | 0.739 mmol, 78 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | Water | 1 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.015 mmol, 17.07 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(benzyloxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)propanoic acid | C(C1=CC=CC=C1)OC(=O)[C@]12[C@@H]([C@H]3CCC4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C=C1)CCC(=O)O)C)[C@@H](CC2)C(=C)C | C46H60O4
